US07598393B2
Step C. 1-(Cyclopropylmethyl)-2-(2,2-dimethylpropyl)-5-(methylsulfonyl)-1H-benzimidazole hydrochloride
The title compound was prepared according to the procedure described in Step F of Example 1 using 2-amino-1-(N-cyclopropylmethylamino)-4-(methylsulfonyl)benzene instead of 2-amino-1-(N-cyclopropylmethylamino)-4-(isopropylsulfonyl)benzene. Obtained 1-(cyclopropylmethyl)-2-(2,2-dimethylpropyl)-5-(methylsulfonyl)-1H-benzimidazole was dissolved in ethyl acetate and to the solution was added 4 N hydrogen chloride in ethyl acetate. Precipitate was collected by filtration to afford the title compound as a white solid.

reactant | 2-amino-1-(N-cyclopropylmethylamino)-4-(methylsulfonyl)benzene | NC1=C(C=CC(=C1)S(=O)(=O)C)NCC1CC1 | C11H16N2O2S
reactant | 1-(cyclopropylmethyl)-2-(2,2-dimethylpropyl)-5-(methylsulfonyl)-1H-benzimidazole | C1(CC1)CN1C(=NC2=C1C=CC(=C2)S(=O)(=O)C)CC(C)(C)C | C17H24N2O2S
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(Cyclopropylmethyl)-2-(2,2-dimethylpropyl)-5-(methylsulfonyl)-1H-benzimidazole hydrochloride | Cl.C1(CC1)CN1C(=NC2=C1C=CC(=C2)S(=O)(=O)C)CC(C)(C)C | InChI=1S/C17H24N2O2S.ClH/c1-17(2,3)10-16-18-14-9-13(22(4,20)21)7-8-15(14)19(16)11-12-5-6-12;/h7-9,12H,5-6,10-11H2,1-4H3;1H
